US06455550B1
Preparation of 1-[2-[[(1,1-Dimethylethoxy)carbonyl](methyl)amino]ethyl]cyclopentane Carboxylic Acid
To a solution of 1-[2-[[(1,1-dimethylethoxy)carbonyl](methyl)amino]ethyl]cyclopentane carboxylic acid methyl ester (4.00 g, 14.0 mmol) in THF/MeOH (2:1, 24 mL) was added a solution of LiOH (1.50 g, 35.0 mmol) in water (8 mL). The mixture was stirred overnight at 50° C. and then cooled to room temperature. The reaction mixture was poured into a round bottom flask and concentrated in vacuo. The mixture was diluted with H2O (50 mL) and acidified with 1M HCl. The aqueous phase was extracted with ethyl acetate (3×1 50 mL) and the combined organic layer was dried over MgSO4, filtered and concentrated in vacuo. Purification by flash column chromatography, using hexane-ethyl acetate (5:1), afforded (3.60 g, 95%) of a white powder. HR MS (C14H25NO4): Calcd mass, 272.1862. Obs mass, 272.1872 (M+H).

reactant | 1-[2-[[(1,1-dimethylethoxy)carbonyl](methyl)amino]ethyl]cyclopentane carboxylic acid methyl ester | 14.0 mmol, 4.00 g | COC(=O)C1(CCCC1)CCN(C)C(=O)OC(C)(C)C | C15H27NO4
reactant | LiOH | 35.0 mmol, 1.50 g | [Li+].[OH-]
solvent | THF MeOH | 24 mL | C1CCOC1.CO
solvent | water | 8 mL | O | H2O
product | 1-[2-[[(1,1-Dimethylethoxy)carbonyl](methyl)amino]ethyl]cyclopentane Carboxylic Acid | 3.60 g, 95% | CC(C)(OC(=O)N(CCC1(CCCC1)C(=O)O)C)C | C14H25NO4
